US07842696B2
Titanium isopropoxide (4.4 g, 4.6 mL, and 15.5 mmol) was added to a stirred solution of 4-acetyl-biphenyl (1 g, 5.1 mmol) and glycine ethyl ester hydrochloride (2.2 g, 16.0 mmol) in MeOH (20 mL) and stirring continued at room temperature overnight. NaBH4 (800 mg, 20 mmol) was added in portion wise and the resulting mixture was stirred at room temperature for 10 hrs. The above mixture was quenched with 2N aqueous NH3 solution, filtered the solid precipitated. The filtrate was extracted with EtOAc, the organic layer was dried over Na2SO4 and concentrated under reduced pressure. The resulting residue was purified by column chromatography (using neutral alumina and 20% EtOAc in hexane as eluent) to afford 297 mg (21.67% yield) of (1-biphenyl-4-yl-ethylamino)-acetic acid methyl ester. 1H NMR (CDCl3): δ 7.64 (t, 4H), 7.5-7.3 (m, 5H), 3.9-3.8 (q, 2H), 3.7 (s, 3H), 3.4 (d, 2H), 1.5 (d, 3H).

reactant | 4-acetyl-biphenyl | 5.1 mmol, 1 g | C(C)(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C14H12O
reactant | glycine ethyl ester hydrochloride | 16.0 mmol, 2.2 g | Cl.C(C)OC(CN)=O
reactant | NaBH4 | 20 mmol, 800 mg | [BH4-].[Na+]
solvent | MeOH | 20 mL | CO | CH4O
catalyst | Titanium isopropoxide | 15.5 mmol, 4.6 mL, 4.4 g | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | (1-biphenyl-4-yl-ethylamino)-acetic acid methyl ester | 297 mg, 21.67% yield | COC(CNC(C)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C17H19NO2
